US08686044B2
Preparation of 3-amino-N-(2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenyl)-2-fluorobenzamide
0.940 g (1.63 mmol) of N-(2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenyl)-2-fluoro-3-nitrobenzamide and 0.960 g (5.05 mmol) of stannous chloride (anhydrous) were added to 10 ml of ethanol, and 1.02 ml (9.78 mmol) of concentrated hydrochloric acid was added thereto, followed by stirring at 60° C. for 4 hours. The reaction mixture was adjusted to pH 10 by the addition of an aqueous sodium hydroxide solution, and the precipitated insolubles were removed by filtration using Celite. The filtrate on Celite was washed with ethyl acetate. The filtrate was extracted with ethyl acetate, and the organic layer was washed with a 20% aqueous sodium hydroxide solution and saturated brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluent solvent; hexane:ethyl acetate=4:1) to prepare 0.930 g (yield 99%) of a target compound.

reactant | N-(2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenyl)-2-fluoro-3-nitrobenzamide | 1.63 mmol, 0.940 g | BrC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C(F)(F)F)NC(C1=C(C(=CC=C1)[N+](=O)[O-])F)=O | C17H6BrF11N2O3
reactant | hydrochloric acid | 9.78 mmol, 1.02 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-amino-N-(2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenyl)-2-fluorobenzamide | 0.930 g, yield 99% | NC=1C(=C(C(=O)NC2=C(C=C(C=C2C(F)(F)F)C(C(F)(F)F)(C(F)(F)F)F)Br)C=CC1)F | C17H8BrF11N2O
